US09371318B2
Step 2: Methyl 4-(2,2-dimethoxyethyl)benzoate
To a solution of methyl 4-(2-methoxyvinyl)benzoate (1.36 g, 7.08 mmol) in methanol (30 mL) was added para-toluenesulfonic acid monohydrate (pTSA) (0.135 g, 0.71 mmol) and the reaction mixture heated under reflux for 18 hours. The solvent was evaporated at reduced pressure. The residue was partitioned between DCM and 10% aqueous potassium carbonate. The organic phase was poured through a hydrophobic frit and the solvent evaporated at reduced pressure. The crude material was used in the next step without further purification.

reactant | methyl 4-(2-methoxyvinyl)benzoate | 7.08 mmol, 1.36 g | COC=CC1=CC=C(C(=O)OC)C=C1 | C11H12O3
reactant | para-toluenesulfonic acid monohydrate | 0.71 mmol, 0.135 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 30 mL | CO | CH4O
product | Methyl 4-(2,2-dimethoxyethyl)benzoate | COC(CC1=CC=C(C(=O)OC)C=C1)OC | C12H16O4
